US09290517B2
Step A: (3S)-1-[4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-5-yl]phenyl]pyrrolidin-3-ol
2-(di-tert-butyl-phosphino)-1-phenyl-1H-pyrrole (21.2 mg, 0.074 mmol) and Pd2(dba)3 (62.3 mg, 0.068 mmol) were combined in a 40 ml vial, which was evacuated (3×) and placed under nitrogen. Dioxane (1.0 ml) was added to the vial to give a dark solution that was stirred at room temperature. Tripotassium phosphate (1.1 ml, 2.200 mmol) was added to a solution of (3R,3aR,6R,6aR)-6-[5-(4-bromophenyl)-6-chloro-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol and (S)-3-hydroxypyrrolidine (101.2 mg, 1.162 mmol) in dioxane (3.0 ml). This biphasic mixture was transferred to the catalyst solution via syringe after the catalyst solution had been stirred for 40 minutes. The reaction mixture was degassed (3×) and placed under nitrogen before being heated to 110° C. After 17 hours, the reaction mixture was cooled to room temperature. The reaction mixture was partitioned between EtOAc (100 ml) and water (100 ml). The aqueous layer was extracted with EtOAc (2×50 ml). The organic layers were combined, washed with brine (1×30 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give an amber residue. The residue was dissolved in EtOAc and loaded onto three 1000 micron 20 cm×20 cm silica gel plates, which were developed using 80% EtOAc/Hex. The silica containing the product band was collected and eluted with EtOAc (125 ml). The solvent was evaporated under reduced pressure to give the desired product as an amber residue. LC-MS: calculated for C28H37ClN4O6Si 588.22 observed m/e: 589.14 (M+H)+ (Rt 1.42/2 min).

reactant | 2-(di-tert-butyl-phosphino)-1-phenyl-1H-pyrrole | 0.074 mmol, 21.2 mg | C(C)(C)(C)P(C=1N(C=CC1)C1=CC=CC=C1)C(C)(C)C | C18H26NP
reactant | Tripotassium phosphate | 2.200 mmol, 1.1 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (3R,3aR,6R,6aR)-6-[5-(4-bromophenyl)-6-chloro-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | BrC1=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)Cl | C24H29BrClN3O5Si
reactant | (S)-3-hydroxypyrrolidine | 1.162 mmol, 101.2 mg | O[C@@H]1CNCC1 | C4H9NO
solvent | dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.068 mmol, 62.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (3S)-1-[4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-5-yl]phenyl]pyrrolidin-3-ol | O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)N1C[C@H](CC1)O)N2)COCC[Si](C)(C)C | C28H37ClN4O6Si
